US07625908B2
N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide
The procedure described in Example 1 was repeated using acetic acid and 5-[(1S)-2-amino-1-methylethoxy]-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine to give the title compound in 60% yield; NMR spectrum (DMSO-d6) 1.40 (d, 3H), 1.80 (s, 3H), 3.40 (m, 1H), 3.62 (m, 1H), 4.85 (m, 1H), 5.30 (s, 2H), 7.23 (m, 2H), 7.30 (d, 1H), 7.36 (m, 1H), 7.57 (m, 2H), 7.71 (t, 1H), 7.87 (td, 1H), 8.12 (d, 1H), 8.22 (t, 1H), 8.49 (s, 1H), 8.58 (d, 1H), 10.00 (s, 1H); Mass Spectrum MH+ 478.

reactant | 5-[(1S)-2-amino-1-methylethoxy]-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine | NC[C@@H](OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)C | C23H22ClN5O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide | 60% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CNC(C)=O)C | C25H24ClN5O3
